US05672715
Preparation of 4-(4-Chlorophenyl)-4-ethoxy-1,1,1-trifluoro-3-methyl-3-buten-2-one.
A solution of 2.0 g of 1-chloro-4-(1,1-diethoxypropyl)benzene and 2.5 mL of CH2Cl2 was treated with 1.45 mL of pyridine. The solution was cooled to 0° C. and treated with 5.5 mL of (CF3CO)2O in 2.5 mL of CH2Cl2. After heating overnight at reflux, the reaction mixture was cooled, diluted with CH2Cl2 and 12 mL of ice cold water was added. The organic layer was seperated and washed with 20 mL of 1N HCl, followed by a washing with 20 mL of 10% Na2CO3 and two washings with 20 mL of water. The organic layer was dried over Na2SO4 and concd in vacuo to yield 1.69 g of a dark brown oil. Chromatographic purification (silica, 10% ethyl acetate in hexanes) yielded 1.0 g of a yellow oil. Bulb to bulb distillation gave 0.45 g of a very pure light yellow oil: μ(23,D) 1.5137; major geometric isomer: 1HNMR (CDCl3) δ 1.22 (t, 3H, 7.0 Hz), 1.70 (s, 3H), 3.64 (q, 2H, 7.0 Hz), 7.30 (d, 2H, 8.3 Hz), 7.46 (d, 2H, 8.4 Hz). 19FNMR (CDCl3) δ -74.68 (CF3). Anal. Calcd for C13H12 O2F3Cl: C, 53.35; H, 4.13. Found: C, 53.44; H, 4.10.

reactant | 1-chloro-4-(1,1-diethoxypropyl)benzene | 2.0 g | ClC1=CC=C(C=C1)C(CC)(OCC)OCC | C13H19ClO2
reactant | pyridine | 1.45 mL | N1=CC=CC=C1 | C5H5N
reactant | (CF3CO)2O | 5.5 mL | O(C(=O)C(F)(F)F)C(=O)C(F)(F)F | C4F6O3
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-Chlorophenyl)-4-ethoxy-1,1,1-trifluoro-3-methyl-3-buten-2-one | 1.69 g | ClC1=CC=C(C=C1)C(=C(C(C(F)(F)F)=O)C)OCC | C13H12ClF3O2
